### PR TITLE
chore: golf a bit

### PR DESCRIPTION
**Pull request by pitmonticone**

### CODE REVIEW

File: SphereEversion/Loops/Basic.lean [hunk 1]
```diff
@@ -383,14 +379,10 @@ theorem Loop.support_diff {γ : E → Loop F} : Loop.support (Loop.diff γ) ⊆
...
   rcases mem_nhds_iff.mp hx with ⟨U, hU, U_op, hxU⟩
-  have U_nhds : U ∈ 𝓝 x := IsOpen.mem_nhds U_op hxU
-  apply Filter.mem_of_superset U_nhds
-  intro y hy
-  have Hy : ∀ t, (fun z ↦ γ z t) =ᶠ[𝓝 y] fun z ↦ (γ z).average := by
-    intro t
-    apply Filter.mem_of_superset (U_op.mem_nhds hy)
-    intro z hz
-    exact Loop.isConst_iff_forall_avg.mp (hU hz) t
+  apply Filter.mem_of_superset (IsOpen.mem_nhds U_op hxU) fun y hy ↦ ?_
```
Comment (grunweg) [inline SphereEversion/Loops/Basic.lean:382]: You could also use dot notation here.

**Review by grunweg — APPROVED** [review]
Thanks! Can you rebase your PR on current master, just to make sure it still works? Then I'll merge it.

**Comment by grunweg** [comment]
I am not convinced *all* your golfs are clearly better - but some are, and there are none I'd object to. So, let's merge this.

**Comment by pitmonticone** [comment]
Could you please enable the "update branch" button so that I can do that from mobile too?

**Comment by pitmonticone** [comment]
I merged main from mobile via browser, but it might be good to enable that possibility so that I could that more efficiently from the app.

**Comment by grunweg** [comment]
> Could you please enable the "update branch" button so that I can do that from mobile too?
> 
> Just go to _Settings / Always suggest updating pull request branches_

I think I can't do that: @PatrickMassot can you; would you like to do the above? From what I understand, exposing that button should be harmless. (At worst, it might enable contributors to shoot themselves in their foot... which seems unlikely, and not an issue for Pietro, Ruben or me.)

**Comment by PatrickMassot** [comment]
I think I just did it.
